US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (228 mg, 1.19 mmol) (described in a previous experimental) and 3-bromobenzylamine (0.84 g, 4.52 mmol) is stirred under N2 at 140° C. for 1 h. The resulting product is chromatographed on silica gel (2-10% EtOH/EtOAc) to give 7-amino-4-[(3-bromophenyl)methylamino]pyrido[4,3-d]pyrimidine (203 mg, 52%) as a light brown solid. 1H NMR (DMSO) δ 9.09 (1H, s), 8.86 (1H, t, J=5.8 Hz), 8.26 (1H, s), 7.54 (1H, s), 7.44 (1H, d, J=7.8 Hz,), 7.36 (1H, d, J=7.6 Hz), 7.29 (1H, t, J=7.7 Hz), 6.48 (2H, s), 6.37 (1H, s), 4.73 (2H, d, J=5.8 Hz).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.19 mmol, 228 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 3-bromobenzylamine | 4.52 mmol, 0.84 g | BrC=1C=C(CN)C=CC1 | C7H8BrN
product | 7-amino-4-[(3-bromophenyl)methylamino]pyrido[4,3-d]pyrimidine | 203 mg, 52% | NC1=CC=2N=CN=C(C2C=N1)NCC1=CC(=CC=C1)Br | C14H12BrN5
